US08557830B2
Aminoacetaldehyde dimethyl acetal (8.83 mL, 81.1 mmol) was added over 1 min to a stirred solution of p-tolualdehyde (9.88 mL, 81.1 mmol) in chloroform (150 mL) at 22° C. An exotherm was noted. The reaction was heated to reflux (65° C.) and half the solvent was removed (azeotropically to remove water). The heat was removed and the yellow solution was cooled to r.t. NMR showed the imine was formed smoothly, however, a trace of aldehyde was observed. The yellow solution was diluted with chloroform to bring the volume back to ˜100 mL, cooled to −3° C. and ethyl chloroformate (7.99 mL, 81.1 mmol) was added dropwise over 5 min followed by triethyl phosphite (17.4 mL, 97.3 mmol) over 10 minutes. The clear yellow solution was then allowed to warm to RT. A reflux condenser added to reaction vessel. After 23 h, titanium tetrachloride (35.6 mL, 324 mmol) was added very slowly (strong exotherm and white fumes observed) and the reaction began to gently reflux (50° C.). Color changed from yellow to dark red to dark brown. Once addition was complete, the dark brown solution was heated to reflux (52° C.) for 10.5 h. After allowing to cool to RT overnight, the dark brown solution was poured onto ice (filled a 2 L beaker with approximately 1 L of ice), the organic layer was separated off, and the aqueous layer was washed with DCM (2×100 mL). The aqueous layer (now orange in color) was poured into a solution of potassium sodium tartrate tetrahydrate (183 g, 648 mmol) in water (300 mL), basified to pH 9 with 28-30% ammonium hydroxide (a white ppt crashed out) and then extracted with DCM (3×200 mL). The organic layer was separated, dried over sodium sulfate, filtered and the solvent was evaporated in vacuo to yield 6-methylisoquinoline (9.02 g, 78% yield) as a light tan amorphous solid. Found MS (ESI, pos. ion) m/z: 144.1 [M+H]+

reactant | Aminoacetaldehyde dimethyl acetal | 81.1 mmol, 8.83 mL | COC(CN)OC | C4H11NO2
reactant | p-tolualdehyde | 81.1 mmol, 9.88 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | ethyl chloroformate | 81.1 mmol, 7.99 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethyl phosphite | 97.3 mmol, 17.4 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | potassium sodium tartrate tetrahydrate | 648 mmol, 183 g | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 300 mL | O | H2O
catalyst | titanium tetrachloride | 324 mmol, 35.6 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 6-methylisoquinoline | 9.02 g, 78% yield | CC=1C=C2C=CN=CC2=CC1 | C10H9N
